US04845201
By reacting 0.85 mmole of phenyl benzoate in 6 ml of DME with 3.38 m atoms of samarium, in the conditions of example 9, a dark-brown compound (phenyl benzoate-samarium) has been obtained and treated as usually. Benzoate was quantitatively converted.

reactant | phenyl benzoate | 0.85 mmole | C(C1=CC=CC=C1)(=O)OC1=CC=CC=C1 | C13H10O2
reactant | samarium | [Sm] | Sm
solvent | DME | 6 ml | COCCOC | C4H10O2
product | phenyl benzoate samarium | C(C1=CC=CC=C1)(=O)OC1=CC=CC=C1.[Sm] | InChI=1S/C13H10O2.Sm/c14-13(11-7-3-1-4-8-11)15-12-9-5-2-6-10-12;/h1-10H;
